US03984563
3-Phenyl-2-(3-phenylureido)-indole.
The compound is obtained according to Example 34 by reacting 2-amino-3-phenylindole (m.p. 220°-223° C) with phenylisocyanate. M.p. 210°-212° C.

reactant | 2-amino-3-phenylindole | NC=1NC2=CC=CC=C2C1C1=CC=CC=C1 | C14H12N2
reactant | phenylisocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
product | 3-Phenyl-2-(3-phenylureido)-indole | C1(=CC=CC=C1)C1=C(NC2=CC=CC=C12)NC(=O)NC1=CC=CC=C1 | C21H17N3O
